US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(5-chloro-2-methyl-1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(5-chloro-2-methyl-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 202°-204° C.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(5-chloro-2-methyl-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=C(NC2=CC1)C)CC(C)(C)N | C13H17ClN2
product | [2-(5-chloro-2-methyl-1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.ClC=1C=C2C(=C(NC2=CC1)C)CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C | InChI=1S/C25H33ClN2O2.ClH/c1-17(2)16-30-24-9-7-6-8-23(24)29-13-12-27-25(4,5)15-21-18(3)28-22-11-10-19(26)14-20(21)22;/h6-11,14,17,27-28H,12-13,15-16H2,1-5H3;1H
